US05726172
To a stirred solution of methyl 4-hydroxy-2-methoxybenzoate (295 mg, 1.62 mmol) in dry THF (1.25 mL) was added triphenylphosphine (425 mg, 1.62 mmol) and the solution was cooled to 0° C. A 500 mL volume of 1-indanol (145 mg, 1.08 mmol) and diethyl azodicarboxylate (255 mL, 1.62 mmol) in THF was added dropwise via syringe over 0.5 h. The reaction was filtered and the solvent was removed under reduced pressure. The residue was chromatographed on a silica gel column packed in 60:40 hexanes:EtOAc and eluted with same. The appropriate fractions were combined and the solvent removed under reduced pressure to afford methyl 4-(1-indanoyloxy)-2-methoxy-benzoate.

reactant | methyl 4-hydroxy-2-methoxybenzoate | 1.62 mmol, 295 mg | OC1=CC(=C(C(=O)OC)C=C1)OC | C9H10O4
reactant | triphenylphosphine | 1.62 mmol, 425 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-indanol | 1.08 mmol, 145 mg | C1(CCC2=CC=CC=C12)O | C9H10O
reactant | diethyl azodicarboxylate | 1.62 mmol, 255 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 1.25 mL | C1CCOC1 | C4H8O
product | methyl 4-(1-indanoyloxy)-2-methoxy-benzoate | C1(CCC2=CC=CC=C12)C(=O)OC1=CC(=C(C(=O)OC)C=C1)OC | C19H18O5
